US07557213B2
25.6 mL of potassium hexamethyldisilazane (12.91 mmol, 0.5 M in tolene) was added to 2.5 g (10.76 mmol) of 7-Methyl-4-oxo-1,4-dihydro-[1,8]naphthyridine-3-carboxylic acid ethyl ester dissolved in 22 mL of tetrahydrofuran and was stirred at room temperature for 15 minutes. 3.24 g (12.91 mmol) of 2-Bromo-6-bromomethyl-pyridine was added and stirred at room temperature for 2.5 h. Water and ethyl acetate were added and the layers separated. The aqueous layer was extracted with ethyl acetate (3×50 mL). The combined organic layers were dried over magnesium sulfate, filtered and dried in vacuo. The crude product was purified on silica gel eluting with 50/50 ethyl acetate/hexane to yield 0.620 g of 1-(6-Bromo-pyridin-2-ylmethyl)-7-methyl-4-oxo-1,4-dihydro-[1,8]naphthyridine-3-carboxylic acid ethyl ester as a brown solid.

reactant | potassium hexamethyldisilazane | 12.91 mmol, 0.5 M, 25.6 mL | C[Si](N[Si](C)(C)C)(C)C.[K]
reactant | 7-Methyl-4-oxo-1,4-dihydro-[1,8]naphthyridine-3-carboxylic acid ethyl ester | 10.76 mmol, 2.5 g | C(C)OC(=O)C1=CNC2=NC(=CC=C2C1=O)C | C12H12N2O3
reactant | 2-Bromo-6-bromomethyl-pyridine | 12.91 mmol, 3.24 g | BrC1=NC(=CC=C1)CBr | C6H5Br2N
reactant | Water | O | H2O
solvent | tetrahydrofuran | 22 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(6-Bromo-pyridin-2-ylmethyl)-7-methyl-4-oxo-1,4-dihydro-[1,8]naphthyridine-3-carboxylic acid ethyl ester | 0.620 g | C(C)OC(=O)C1=CN(C2=NC(=CC=C2C1=O)C)CC1=NC(=CC=C1)Br | C18H16BrN3O3
